US04880800
Z-1,1-Dimethylethyl 6-Chloro-4-hexenoate
n-BuLi (1.6M, 6 ml) was added over 5 min. to a stirred, cooled (-10°) solution of cyclohexylisopropylamine (1.64 ml) in dry THF (10 ml) under nitrogen. After 5 min., the solution was cooled to -78° and 15 min. later tert-butyl acetate (1.35 ml) was added over 5 min. After 20 min. cis-1,4-dichloro-2-butene (4 ml) was added and the mixture was allowed to warm to 10° over 4 h. The mixture was diluted with 1N HCl (25 ml) and extracted with ER (2×30 ml). The combined extracts were successively washed with 1N HCl (20 ml), brine (20 ml) and 8% NaHCO3 solution (20 ml) then dried and evaporated. The excess of dichloromethane was removed in vacuo and the residue was purified by chromatography (A) using PE, followed by 1:1 CH2Cl2 -PE increasing to CH2Cl2 as eluant to give the title compound as an oil (0.66 g)

reactant | n-BuLi | 1.6M, 6 ml | [Li]CCCC
reactant | cyclohexylisopropylamine | 1.64 ml | C1(CCCCC1)NC(C)C | C9H19N
reactant | tert-butyl acetate | 1.35 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | cis-1,4-dichloro-2-butene | 4 ml | ClC\C=C/CCl | C4H6Cl2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | HCl | 1N, 25 ml | Cl | ClH
product | Z-1,1-Dimethylethyl 6-Chloro-4-hexenoate | 0.66 g | ClC\C=C/CCC(=O)OC(C)(C)C | C10H17ClO2
